US07829497B2
Synthesis of N-acetyl-N-octylaniline
1-Octylbromide (39 mL, 224 mmol, 1.12 eq) was added dropwise to a mixture of acetanilide (27 g, 200 mmol, 1 eq) in dimethylsulfoxide (130 mL), containing potassium hydroxide pellets (18.87 g, 300 mmol, 1.5 eq), at room temperature. After all the octyl bromide was added the reaction mixture was heated to 50-55° C. for 1.5 hours. The reaction mixture was cooled and poured into water (1 L), stirred for 45 minutes and extracted with hexanes (3×400 mL). The hexane extracts were combined, dried over sodium sulfate and evaporated to give 48.4 g (196 mmol, 98%) of colorless oil. The product was identified by NMR spectroscopy and mass spectrometry and was used without further purification.

reactant | 1-Octylbromide | 224 mmol, 39 mL, 1.12 eq | C(CCCCCCC)Br | C8H17Br
reactant | acetanilide | 200 mmol, 27 g, 1 eq | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 1 L | O | H2O
solvent | dimethylsulfoxide | 130 mL | CS(=O)C | C2H6OS
product | N-acetyl-N-octylaniline | 196 mmol, 48.4 g, 98% | C(C)(=O)N(C1=CC=CC=C1)CCCCCCCC | C16H25NO
